US04696938
1.5 g of 6-(2,4-dichlorophenyl)-2-methylpyridine was dissolved in 200 ml of 1,4-dioxane and treated with 1.05 g of selenium dioxide (Aldrich, Gold Label). The mixture was refluxed for 72 hours. An additional 1.2 g of selenium dioxide was added and the mixture was heated a further 48 hours. The solids were removed by filtration and the dioxane was evaporated to afford crude 6-(2,4-dichlorophenyl)-2-pyridinecarboxaldehyde which was chromatographed on silica-gel to afford 1.5 g of 6-(2,4-dichlorophenyl)-2-pyridinecarboxaldehyde as a white solid.

reactant | 6-(2,4-dichlorophenyl)-2-methylpyridine | 1.5 g | ClC1=C(C=CC(=C1)Cl)C1=CC=CC(=N1)C | C12H9Cl2N
reactant | selenium dioxide | 1.05 g | [Se](=O)=O | O2Se
reactant | selenium dioxide | 1.2 g | [Se](=O)=O | O2Se
solvent | 1,4-dioxane | 200 ml | O1CCOCC1 | C4H8O2
product | 6-(2,4-dichlorophenyl)-2-pyridinecarboxaldehyde | ClC1=C(C=CC(=C1)Cl)C1=CC=CC(=N1)C=O | C12H7Cl2NO
